US04207316
5.0 g. of 21-acetoxy-11β-formyloxy-17α-hydroxy-1,4-pregnadiene-3,20-dione is dissolved in 150 ml. of methylene chloride and 30 ml. of formaldehyde diethylacetal and cooled to 0° C. Under agitation, a mixture of 5 g. of phosphorus pentoxide and 10 g. of kieselguhr is inroduced, and the mixture is stirred for 2.5 hours in an ice bath, whereafter it is filtered, washed with methylene chloride, and brought to pH 9 with triethylamine. After the solvent has been distilled off, 10.5 g. of crude 21-acetoxy-17α-ethoxymethoxy-11β-formyloxy-1,4-pregnadiene-3,20-dione is obtained as a semisolid mass.

reactant | 21-acetoxy-11β-formyloxy-17α-hydroxy-1,4-pregnadiene-3,20-dione | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)OC=O)=O)O)=O | C24H30O7
reactant | formaldehyde diethylacetal | C(C)OCOCC | C5H12O2
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 21-acetoxy-17α-ethoxymethoxy-11β-formyloxy-1,4-pregnadiene-3,20-dione | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)OC=O)=O)OCOCC)=O | C27H36O8
